US07615555B2
1-[1-(3-Chloro-3-phenylpropyl)piperidin-4-yl]-5-(methylsulfonyl)-1H-benzimidazole
Methanesulphonyl chloride (0.46 ml) was added to a solution of 3-{4-[5-(methylsulfonyl)-1H-benzimidazol-1-yl]piperidin-1-yl}-1-phenylpropan-1-ol (2.1 g) and triethylamine (0.9 ml) in dichloromethane (30 ml) at 0° C. The mixture was allowed to warm to room temperature and stirring was continued for 16 hours. The reaction mixture was washed with water (15 ml) and brine (15 ml) and dried. Removal of the solvent gave the title compound as an orange foam, yield 1.85 g, M+H 432.

reactant | Methanesulphonyl chloride | 0.46 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-{4-[5-(methylsulfonyl)-1H-benzimidazol-1-yl]piperidin-1-yl}-1-phenylpropan-1-ol | 2.1 g | CS(=O)(=O)C1=CC2=C(N(C=N2)C2CCN(CC2)CCC(O)C2=CC=CC=C2)C=C1 | C22H27N3O3S
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-[1-(3-Chloro-3-phenylpropyl)piperidin-4-yl]-5-(methylsulfonyl)-1H-benzimidazole | ClC(CCN1CCC(CC1)N1C=NC2=C1C=CC(=C2)S(=O)(=O)C)C2=CC=CC=C2 | C22H26ClN3O2S
